US04117167
To a stirred solution of 2-nitroaniline (6.91 g.) and 2-chloro-3,5-dinitrobenzotrifluoride (13.53 g.) in dry dimethylformamide (150 ml.) potassium hydroxide (8.0 g, pellets) was added in small portions over 15 minutes. During the addition, the temperature rose from 20° C. to 80° C. When the addition was complete the mixture was stirred for two hours at 60° C., after which concentrated hydrochloric acid was added to acidify the mixture. Industrial methylated spirit (50 ml.) was then added and the mixture stirred for 15 minutes at the ambient temperature. The solid precipitate was collected by filtration, washed with water and dried to yield 2(2-nitroanilino)-3,5-dinitrobenzotrifluoride, melting point 154°-156° C.

reactant | 2-nitroaniline | 6.91 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 13.53 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2(2-nitroanilino)-3,5-dinitrobenzotrifluoride | [N+](=O)([O-])C1=C(NC2=C(C=C(C=C2[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F)C=CC=C1 | C13H7F3N4O6
